US07084154B2
To a solution of 4-hydroxyphenylacetone (0.5 g, Avocado, U.K.) and ammonium acetate (2.54 g, Aldrich, U.S.A.) in 10 mL methanol was added 0.17 g of sodium cyanoborohydride (Aldrich, U.S.A.). After stirring for 72 h at rt, concentrated hydrochloric acid was added dropwise until the solution reached pH 2. The solvent was evaporated and the resulting residue was dissolved in water, then extracted 3 times with diethyl ether. The aqueous layer was neutralized to pH 8 by the addition of potassium hydroxide and extracted with diethyl ether. The basic ether layer was dried over sodium sulfate and the solvent was removed in vacuo to give 0.23 g of 4-(2-amino-propyl)-phenol.

reactant | 4-hydroxyphenylacetone | 0.5 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | ammonium acetate | 2.54 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.17 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 4-(2-amino-propyl)-phenol | 0.23 g | NC(CC1=CC=C(C=C1)O)C | C9H13NO
